US04500601
Chloroacetoxypropyl methacrylate (CAPM) was prepared by condensation of chloroacetyl chloride with hydroxypropyl methacrylate in pyridine (cf Chem. Abs. 68, 105913 g) b.p. 92°-4° C./0.2 mm.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | hydroxypropyl methacrylate | C(C(=C)C)(=O)OCCCO | C7H12O3
solvent | pyridine | 105913 g | N1=CC=CC=C1 | C5H5N
product | Chloroacetoxypropyl methacrylate | C(C(=C)C)(=O)OCCCOC(CCl)=O | C9H13ClO4
